### ISSUE TITLE
Some easy cases that are not well handled by smt tactic.

### ISSUE THREAD

**Issue by j-mayoral** [ufmg-smite/lean-smt#180]
Playing with the library and, in particular, with the smt tactic, we have been able to see some simple cases that the tactic is not able to reconstruct. Moreover, with very small changes these errors can be "skipped".

Examples: 
```
example: (1 < 2) := by smt                                --ko tactic 'assumption' failed
example {x : Int}: (x = 1) → (x < 2) := by smt            --ok 
```

```
example {x: Int}: (x * x ≥ 0) := by smt                 --ko [mul_sign]: invalid kinds: EQUAL, EQUAL
example {x y: Int}: (x = y) → (x * y ≥ 0) := by smt     --ok
```

Can you please confirm if what we have posted are really errors or if there is something missing on our side?

Thank you very much. It is an amazing library

cc. @jxm-math

**Comment by abdoo8080** [comment]
Hi @j-mayoral! Thanks for reporting this issue!

For the first case, `example: (1 < 2) := by smt`, the `smt` tactic fails because it currently does not support proof reconstruction for goals involving `Nat`. We plan to start adding support for `Nat` in the next few months.

Regarding the second example, `example {x: Int}: (x * x ≥ 0) := by smt`, this is indeed caused by a bug in our code. I have a fix for that coming soon!

Thanks again for reporting these and for the kind words — we're glad you're enjoying the library!

**Comment by abdoo8080** [comment]
Hi @j-mayoral! I fixed the issue with the second example. The following should now work:
```lean4
example : ((1 : Int) < 2) := by smt
example {x: Int} : (x * x ≥ 0) := by smt
```

**Comment by j-mayoral** [comment]
Thanks a lot, it works perfectly.

Closing the issue 🥳 

cc. @jxm-math

**Comment by jxm-math** [comment]
Yep, thank you very much @abdoo8080 !!
